US05582764
Preparation of trans, trans-4-(4-(4-n-propyl-4-silacyclohexyl)cyclohexyl)-3',4'-difluorobiphenyl
A 25 ml THF solution of 1.0M 4-(4-(3,4-difluorophenyl)phenyl)cyclohexyl magnesium bromide (25 mmol) was dripped into a mixed solution of 5.36 g (20.0 mmol) of 4-iodo-1-n-propyl-1-silacyclohexane, 50 mg of copper (I) iodide, 100 mg of triethyl phosphite and 50 ml of THF. The silacyclohexane rings of the product thus obtained were a mixture of trans isomers and cis isomers. After a conventional after treatment, they were separated by means of chromatography to obtain 1.49 g (yield 36%) of the target product, i.e. the trans, trans isomers. The obtained target product exhibited the same physical properties as the product of Example 1.

reactant | 4-(4-(3,4-difluorophenyl)phenyl)cyclohexyl magnesium bromide | 25 mmol, 1.0M | FC=1C=C(C=CC1F)C1=CC=C(C=C1)C1CCC(CC1)[Mg]Br
reactant | 4-iodo-1-n-propyl-1-silacyclohexane | 20.0 mmol, 5.36 g | IC1CC[SiH](CC1)CCC | C8H17ISi
reactant | triethyl phosphite | 100 mg | P(OCC)(OCC)OCC | C6H15O3P
catalyst | copper (I) iodide | 50 mg | [Cu]I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | trans-4-(4-(4-n-propyl-4-silacyclohexyl)cyclohexyl)-3',4'-difluorobiphenyl | 1.49 g, yield 36% | C(CC)[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C26H34F2Si
